US07678798B2
tert-Butyl 4-{(3S)-4-[3-Methoxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate
To a suspension of sodium hydride (150 mg, 3.75 mmol) in tetrahydrofuran (15 mL) was added a solution of tert-butyl 4-{4-[3-hydroxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate (92 mg, 0.185 mmol) in tetrahydrofuran (5 mL). The reaction mixture was stirred at room temperature for 1 h before methyl iodide (0.50 mL, 8.05 mmol) was added. The reaction was continuously stirred at room temperature overnight and quenched by addition of 10 mL of water and 10 mL of EtOAc. The organic phase was separated and the aqueous layer was extracted with EtOAc twice (2×15 mL). The combined extracts were washed with brine, dried over Na2SO4, and evaporated under reduced pressure to give the crude product (81 mg, 85%) which was used directly for the next step. LC-MS [M+1]=511.3.

reactant | sodium hydride | 3.75 mmol, 150 mg | [H-].[Na+]
reactant | tert-butyl 4-{4-[3-hydroxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate | 0.185 mmol, 92 mg | OC1CC(C2=CC=C(C=C12)C(F)(F)F)N1C(CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C | C26H38F3N3O3
reactant | methyl iodide | 8.05 mmol, 0.50 mL | CI | CH3I
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-{(3S)-4-[3-Methoxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate | 81 mg, 85% | COC1CC(C2=CC=C(C=C12)C(F)(F)F)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C | C27H40F3N3O3
